data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_40424_2,[C@@:1]([C:3]([H:14])([H:15])[H:16])(/[C:4](=[N:7]/[O:6][H:8])[H:10])([O:5][C:2]([H:11])([H:12])[H:13])[H:9]>>[C@@:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C@:4]([O:5][C:2]([H:11])([H:12])[H:13])([H:10])[N:7]1[O:6][H:8],72.55029499998969
MR_394694_1,[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])=[O:8])([O:6][H:10])([O:7][H:11])[H:12]>>[C@@:1]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])([C:4]([O:7][H:11])=[O:8])([O:6][H:10])[H:12],61.08649750000524
MR_149980_2,[C:1]([C:2]([H:12])([H:13])[H:14])(/[N:3]=[N:4]/[H:10])([C:5]([O:6][H:9])([H:7])[H:11])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([N:4]([H:9])[H:10])[H:7])([C:5](=[O:6])[H:11])[H:8],50.29600750003297
MR_407757_1,[C:1](/[N:9]=[C:5]([C:2]([H:18])([H:19])[H:20])/[C:4](=[C:3](/[N:6]([H:11])[H:12])[O:8][H:10])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([N:9]1[C:3]([N:6]([H:11])[H:12])([O:8][H:10])[C:4]([N:7]([H:13])[H:14])=[C:5]1[C:2]([H:18])([H:19])[H:20])([H:15])([H:16])[H:17],32.66262999996641
MR_660953_0,[C@@:1]([C:3]([H:16])([H:17])[H:18])([N:4]([O:7][N:6]([H:11])[H:12])[H:8])([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])[H:10]>>[C@:1]([C:3]([H:16])([H:17])[H:18])([N:4]([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])[H:8])([O:7][N:6]([H:11])[H:12])[H:10],70.84977000000279
MR_109148_2,[C:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])([H:7])[C:2]([N:5]([H:10])[H:11])([H:9])[O:6]1>>[C:1]([C:2]([N:5]([H:10])[H:11])([H:7])[H:9])([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])=[O:6],26.40206249997135
MR_182809_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([N:5]([H:10])[H:11])=[C:6](/[C:3]([H:16])([H:17])[H:18])[H:12])([O:7][H:8])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](/[N:5]([H:10])[H:11])[C:6]([C:3]([H:16])([H:17])[H:18])([O:7][H:8])[H:12])[H:9],66.73336999998028
MR_286070_0,[C@:1]([N:4]([H:9])[H:10])(/[C:5](=[N:7]\[C:3]([H:15])([H:16])[H:17])[H:11])([O:6][C:2]([H:12])([H:13])[H:14])[H:8]>>[C@:1]1([N:4]([H:9])[H:10])([H:8])[C@:5]([O:6][C:2]([H:12])([H:13])[H:14])([H:11])[N:7]1[C:3]([H:15])([H:16])[H:17],47.2118449999725
MR_396602_0,[C:1]([O:2][O:3][H:6])([O:4][H:8])([O:5][H:7])[H:9]>>[C:1]([O:2][O:4][H:8])([O:3][H:6])([O:5][H:7])[H:9],63.84624250002872
MR_209445_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:6])[H:9])(/[C:4](=[N:5]/[H:8])[H:10])[H:7]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([N:5][H:8])[H:10])=[O:6])([H:7])[H:9],71.95730749998873
MR_147740_1,[C:1](/[C:4]([N:7]([H:13])[H:14])=[N:8]/[C:2]([H:15])([H:16])[H:17])([C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])([N:6]([H:11])[H:12])[H:10]>>[C:1](=[C:4](\[N:7]([H:13])[H:14])[N:8]([C:2]([H:15])([H:16])[H:17])[C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])(\[N:6]([H:11])[H:12])[H:10],41.967200000052
MR_77203_0,[C:1]([C:3]([O:5][H:8])=[O:6])([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10]>>[C:1](=[C:4]([C:2]([H:11])([H:12])[H:13])[O:7][C:3]([O:5][H:8])=[O:6])([H:9])[H:10],64.44550500001384
MR_9853_0,[C:1]([O:2][H:6])([O:3][H:5])=[O:4]>>[C:1](=[O:2])([O:3][H:5])[O:4][H:6],27.46567499999685
MR_688030_0,[C:1]1([O:8][H:11])([O:9][H:12])[C:2]([H:13])([H:14])[N:6]([C:4]([H:18])([H:19])[H:20])[C:7](=[O:10])[N:5]1[C:3]([H:15])([H:16])[H:17]>>[C:1]([C:2]([N:6]([C:4]([H:18])([H:19])[H:20])[C:7]([N:5]([C:3]([H:15])([H:16])[H:17])[H:12])=[O:10])([H:13])[H:14])([O:8][H:11])=[O:9],36.42637499998756
MR_323701_1,[C:1]([N:2](/[C:3]([N:5]([H:11])[H:12])=[N:7]/[N:4]([H:9])[H:10])[N:6]=[O:8])([H:13])([H:14])[H:15]>>[C:1]([N:2]1[C:3]([N:5]([H:11])[H:12])([N:6]=[O:8])[N:7]1[N:4]([H:9])[H:10])([H:13])([H:14])[H:15],70.40424499998622
MR_265635_0,[C:1](/[N:3]=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:7]([C:5](=[O:8])[H:10])[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[O:6][H:9])[C:5](=[O:8])[H:10])([H:11])([H:12])[H:13],63.70944750001741
MR_636591_1,[C:1]([C:2](=[C:5]([H:14])[H:15])[O:6][N:3]([H:10])[H:11])([N:4]([H:12])[H:13])([O:7][H:8])[H:9]>>[C:1]([C:2](=[C:5]([H:14])[H:15])[O:7][H:8])([N:4]([H:12])[H:13])([O:6][N:3]([H:10])[H:11])[H:9],57.35538249997305
MR_554045_0,[C:1]([C:3]1([N:2]([N:5]([H:11])[H:12])[H:10])[C:4](=[C:6]([H:16])[H:17])[N:8]1[H:13])([O:7][H:9])([H:14])[H:15]>>[C:1](/[C:3]([C:4]([N:2]([N:5]([H:11])[H:12])[H:10])=[C:6]([H:16])[H:17])=[N:8]/[H:13])([O:7][H:9])([H:14])[H:15],67.98209500000212
MR_613702_0,[C:1]([N:7](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:3]\[N:5]([H:9])[H:10])[C:6](=[O:8])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:7]=[C:4](/[C:2]([H:15])([H:16])[H:17])[N:3]([N:5]([H:9])[H:10])[C:6](=[O:8])[H:11])([H:12])([H:13])[H:14],73.30643250000676
MR_301750_0,[C:1]1([C@@:2]([C:5]([O:8][H:11])=[O:9])([N:6]([H:13])[H:14])[H:12])([O:7][H:10])[C:3]([H:16])([H:17])[C:4]1([H:15])[H:18]>>[C:1](=[C:2](\[N:6]([H:13])[H:14])[H:12])(\[C:4]([C:3]([C:5]([O:8][H:11])=[O:9])([H:16])[H:17])([H:15])[H:18])[O:7][H:10],58.48488250001054
